US09416132B2
To the solution of compound 1-amino-2-methylpropan-2-ol (55 mg, 0.57 mmol) and compound 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine (150 mg, 0.48 mmol) in 3 mL DMSO was added DIEA (0.21 mL, 0.96 mmol) and 10 mg CsF, the solvent was stirred for 5 h at 120° C., Then the mixture was purified by HPLC to afford the compound 2-methyl-1-((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)propan-2-ol (25 mg, 12%) as a white solid.

reactant | 1-amino-2-methylpropan-2-ol | 0.57 mmol, 55 mg | NCC(C)(O)C | C4H11NO
reactant | 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine | 0.48 mmol, 150 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C13H7ClF3N3O
reactant | DIEA | 0.96 mmol, 0.21 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | CsF | 10 mg | [F-].[Cs+]
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 2-methyl-1-((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)propan-2-ol | 25 mg, 12% | CC(CNC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F)(C)O | C17H17F3N4O2
